US07202245B2
A mixture of 4-chloro-1-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline-7-carboxylic acid methyl ester (80 mg), 2-(4-pyridyl)ethylamine (50 mg), and sodium bicarbonate (45 mg) in DMF (2 mL) was stirred at 50° C. for 15 hrs. The mixture was cooled to 23° C., and then diluted with water and EtOAc. A precipitate formed which was isolated by filtration to afford 1-methoxy-4-(2-pyridin-4-ylethylamino)-[1,2,4]triazolo[4,3-a]quinoxaline-7-carboxylic acid methyl ester. MS (M+H)+=379.3.

reactant | 4-chloro-1-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline-7-carboxylic acid methyl ester | 80 mg | COC(=O)C=1C=C2N=C(C=3N(C2=CC1)C(=NN3)OC)Cl | C12H9ClN4O3
reactant | 2-(4-pyridyl)ethylamine | 50 mg | N1=CC=C(C=C1)CCN | C7H10N2
reactant | sodium bicarbonate | 45 mg | C([O-])(O)=O.[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-methoxy-4-(2-pyridin-4-ylethylamino)-[1,2,4]triazolo[4,3-a]quinoxaline-7-carboxylic acid methyl ester | COC(=O)C=1C=C2N=C(C=3N(C2=CC1)C(=NN3)OC)NCCC3=CC=NC=C3 | C19H18N6O3
